US08383633B2
N-(4-(4-(1,2,4-thiadiazol-5-ylamino)-6-(3-cyclopropyl-3-fluoroazetidin-1yl)pyrimidin-2-ylthio)phenyl)-3,3,3-trifluoropropanamide
To a microwave tube was added N-(4-(4-(1,2,4-thiadiazol-5-ylamino)-6-chloropyrimidin-2-ylthio)phenyl)-3,3,3-trifluoropropanamide (100 mg, 0.25 mmol), 3-cyclopropyl-3-fluoroazetidine hydrochloride (100 mg, 0.7 mmol), DIPEA (0.1 ml) and dioxane. The mixture was microwaved at 130 C for 20 mins, partitioned between ethylacetate and bicarbonate and organic layer concentrated to an oil. The product was purified by HPLC to afford the product as a white solid (27 mg, 20%) 1H NMR d6 DMSO 0.42-0.48 (2H, m), 0.6-0.63 (2H, m), 1.38-1.43 (1H, m), 3.55-3.65 (2H, m), 3.8-4.0 (4H, m), 5.65 (1H,s), 7.65 (2H, d), 7.75 (2H, d), 8.2 (1H,s), 10.7 (1H,s), 12.1 (1H,s); MS ESI+ve 526 (M+H)+.

reactant | N-(4-(4-(1,2,4-thiadiazol-5-ylamino)-6-chloropyrimidin-2-ylthio)phenyl)-3,3,3-trifluoropropanamide | 0.25 mmol, 100 mg | S1N=CN=C1NC1=NC(=NC(=C1)Cl)SC1=CC=C(C=C1)NC(CC(F)(F)F)=O | C15H10ClF3N6OS2
reactant | 3-cyclopropyl-3-fluoroazetidine hydrochloride | 0.7 mmol, 100 mg | Cl.C1(CC1)C1(CNC1)F
reactant | DIPEA | 0.1 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-(4-(4-(1,2,4-thiadiazol-5-ylamino)-6-(3-cyclopropyl-3-fluoroazetidin-1yl)pyrimidin-2-ylthio)phenyl)-3,3,3-trifluoropropanamide | 27 mg, 20% | S1N=CN=C1NC1=NC(=NC(=C1)N1CC(C1)(F)C1CC1)SC1=CC=C(C=C1)NC(CC(F)(F)F)=O | C21H19F4N7OS2
